US04487773
A solution of potassium hydroxide (88.4 g., 1.576 mole) in 10 liters of water is stirred and heated to 95° C.; then 1-propionyl-4-(2-phenoxyethyl)-semicarbazide (396.1 g., 1.576 mole) added and the mixture stirred at 95°-96° C. for a 40 min. period. Insolubles are collected and the filtrate stirred in an ice bath as 145 ml. (1.74 mole) of 37% hydrochloric acid is added. Stirring is continued with cooling to provide a white solid which is collected, rinsed with water and air dried to provide 233.5 g., (63.5% yield) of 5-ethyl-4-(2-phenoxyethyl)-2H-1,2,4-triazol-3(4H)-one, m.p. 136°-139° C.

reactant | potassium hydroxide | 1.576 mole, 88.4 g | [OH-].[K+]
reactant | 1-propionyl-4-(2-phenoxyethyl)-semicarbazide | 1.576 mole, 396.1 g | C(CC)(=O)NNC(=O)NCCOC1=CC=CC=C1 | C12H17N3O3
reactant | hydrochloric acid | 1.74 mole | Cl | ClH
solvent | water | 10 liters | O | H2O
product | 5-ethyl-4-(2-phenoxyethyl)-2H-1,2,4-triazol-3(4H)-one | 63.5% yield | C(C)C=1N(C(NN1)=O)CCOC1=CC=CC=C1 | C12H15N3O2
